Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
suicidal ideation
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
Mr. ___ is a ___ male with a history of anxiety and
depression, off his medications for almost ___ years, who presents
to emergency room with SI. He had plans to cut himself on 
morning
of ___. States his girlfriend called police because 'I was
going crazy.' He had been placed in restraints in the ED due to
extreme agitation. States that he has had a suicide attempt in
the past but is unwilling to disclose the information. Patient
also endorses homicidal ideation but denies any auditory or
visual hallucinations. Denies any drug use. Being admitted to
medicine since he has been in the ED for 4 days.

Of note, he was found to have sterile pyuria and was treated for
urethritis.

In the ED, initial vitals:  T 100.4, HR 104, BP 138/92, RR 14, 
O2
sat 98% on RA
- Labs notable for:  UA with large leuks
- Pt given: treating for urethritis; ctx, azithro, lorazepam 2mg
IM x4 and 1mg x1, Haldol 5mg IM x3, risperidone 1mg PO, and 
500cc
NS
- Vitals prior to transfer: T 98.5, HR 85, BP 133/96, RR 15, 99%
on RA
 
On the floor, patient denies feelings of hopelessness,
worthlessness, anxiety, depression, SI/HI, flashbacks, stress
beyond his baseline, or recent manic episodes. Confirmed that he
has been off his medications for ___ years for bipolar disorder
because they do not help him. Endorses panic attacks when he 
gets
on the train. Fears crowded public places. Is asking to go home
repeatedly. When asked about the scars on his arm, he says they
are from long time ago.

 
Past Medical History:
Anxiety
Depression
?Bipolar disorder
Dyslexia
Sickle trait
 
Social History:
___
Family History:
Father with bipolar disorder
Mother with diabetes
 
Physical Exam:
ADMISSION EXAM
==============
VITALS:  Reviewed in ___
General: Thin appearing, alert, oriented, staring intensely
throughout interview  
HEENT: Sclerae anicteric, MMM, septal ring
CV: Tachy on auscultation, regular rhythm, hyperdynamic
precordium. normal S1 + S2, no murmurs, rubs, gallops
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema
Skin: Warm, dry. Tattoo on anterior left chest, scars seen on
flexor surface on both arms
Psych: Poor insight on hospitalization, says "it's because you
guys think I'm crazy"

DISCHARGE EXAM
==============
98.4 121 / 72 96 20 94 ra 
General: Thin appearing, alert, oriented, staring intensely
throughout interview  
HEENT: Sclerae anicteric, MMM, septal ring
CV: RRR, no m/r/g. normal S1 + S2
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema
Skin: Warm, dry. Tattoo on anterior left chest, scars seen on
flexor surface on both arms
Psych: Poor insight on hospitalization, but alert and oriented 
x3.
 
Pertinent Results:
ADMISSION LABS
==============
___ 12:55PM BLOOD WBC-3.8* RBC-4.75 Hgb-13.7 Hct-39.8* 
MCV-84 MCH-28.8 MCHC-34.4 RDW-12.1 RDWSD-37.1 Plt ___
___ 12:55PM BLOOD Neuts-74.4* Lymphs-17.4* Monos-6.6 
Eos-1.3 Baso-0.0 Im ___ AbsNeut-2.82 AbsLymp-0.66* 
AbsMono-0.25 AbsEos-0.05 AbsBaso-0.00*
___ 12:55PM BLOOD Glucose-77 UreaN-13 Creat-1.0 Na-141 
K-4.1 Cl-103 HCO3-25 AnGap-13
___ 12:55PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 01:01PM BLOOD Lactate-1.3

DISCHARGE LABS
==============
___ 05:10AM BLOOD WBC-5.4 RBC-4.97 Hgb-14.4 Hct-41.4 MCV-83 
MCH-29.0 MCHC-34.8 RDW-11.9 RDWSD-36.0 Plt ___
___ 05:10AM BLOOD Glucose-73 UreaN-10 Creat-0.9 Na-142 
K-4.1 Cl-102 HCO3-27 AnGap-13
___ 05:10AM BLOOD Calcium-10.0 Phos-4.8* Mg-2.5

MICROBIOLOGY
============
___ 11:45 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      GRAM POSITIVE BACTERIA.    >100,000 CFU/mL. 
         Alpha hemolytic colonies consistent with alpha 
streptococcus or
         Lactobacillus sp. 

RADIOLOGY
=========
CXR
IMPRESSION:  
No acute cardiopulmonary abnormality. 

 
Brief Hospital Course:
Mr. ___ ___ M with sig PMHx history of untreated 
anxiety,
depression, and bipolar disorder, with a prior suicide attempt,
who was admitted after having suicidal ideations and agitation. 

#Suicidal ideation: The patient has a long history of anxiety 
and depression with ?bipolar disorder, and has been off of 
medications for the past ___ years. He presented to the emergency 
department with SI, and had plans to cut himself. His girlfriend 
called the police because he was "going crazy". He was placed in 
restraints and chemically restrained in the ED due to extreme 
agitation, and stated that he had a previous suicide attempt 
though did not elaborate. He endorsed homicidal ideation but 
denied any hallucinations. Given this, he was seen by psychiatry 
who recommended involuntary admission via Section 12a given his 
risk for harm and active SI. He was admitted to the general 
medicine service, where he was started in Depakote abd Zyprexa. 
He continued to experience grandiosity, stating to the nurse 
that "Gold told me I was the ___. He had initially refused 
medication but on the day of discharge took Depakote. He was 
discharged to ___ for ongoing management 
of decompensated bipolar disorder and SI. 
 
#Sterile pyuria: The pt was treated empirically with CTX and
azithro in the ED given asymptomatic pyuria. He was negative for 
G/C. His urine culture was however positive for gram positive 
alpha hemolytic colonies, c/w alpha streptococcus or 
lactobacillus. He is currently
asymptomatic. 

# TRANSITIONAL ISSUES
=====================
- pt will need ongoing medication titration for bipolar 
disorder, including outpatient psychiatric follow up after 
discharge.

 
Medications on Admission:
NONE
 
Discharge Medications:
1.  Divalproex (EXTended Release) 500 mg PO DAILY  
2.  OLANZapine 5 mg PO BID  

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
Bipolar disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to the hospital after you experience suicidal 
ideation. You were seen in the emergency department by our 
psychiatrists, who felt that you were at risk of harm to 
yourself and because of this required involuntary admission to 
the hospital for treatment. You were prescribed a medication 
called Depakote (divalproex) for your untreated bipolar 
disorder. This medication is very important to take, and will 
work to help control the symptoms of your bipolar disorder.

While you were in the emergency department, you were treated 
with two antibiotics, ceftriaxone and azithromycin for a 
possible urinary tract infection given a urine test showing a 
possible infection.

Because of your continued need for treatment, you were 
discharged to a psychiatric facility called Arbour for ongoing 
treatment.

We wish you the best in your ongoing care,

Your ___ Care Team
 
Followup Instructions:
___